US04060528
To a stirred solution of 28.2 parts of p-(2-thenoyl)hydratropic acid, sodium salt in 250 parts of hexamethylphosphoramide are added 49.2 parts of 1-bromopropane and the whole is stirred for 2 hours at room temperature. The reaction mixture is poured onto 1000 parts of water and the product is extracted three times with diisopropylether. The combined extracts are washed with 200 parts of water, dried, filtered and evaporated. The viscous residue is filtered off over hyflo, yielding propyl p-(2-thenoyl)hydratropate as a yellow oil.

reactant | p-(2-thenoyl)hydratropic acid | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)O)C)C=C1 | C14H12O3S
reactant | sodium | [Na] | Na
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | 1-bromopropane | BrCCC | C3H7Br
solvent | water | O | H2O
product | propyl p-(2-thenoyl)hydratropate | C1(=CC=CS1)C(=O)C1=CC=C(C(C(=O)OCCC)C)C=C1 | C17H18O3S
